US07943669B2
Step B: {4-[3-Cyclopentylmethoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-Cyclopentylmethoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (120 mg; 0.202 mmol) was dissolved in ethanol (50 mL), and aqueous 1 N sodium hydroxide (2 mL) was added. The reaction mixture was stirred for 30 min, acidified with 1 N aqueous hydrochloric acid and extracted with dichloromethane. The organic phase was dried and evaporated to dryness. Yield: 100 mg. HPLC-MS: m/z: 551.5 (M+H)+; Rt: 2.69 min.

reactant | {4-[3-Cyclopentylmethoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.202 mmol, 120 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)S(=O)(=O)C)OCC1CCCC1)C)=O | C32H34O6S2
reactant | sodium hydroxide | 1 N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | {4-[3-Cyclopentylmethoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | C1(CCCC1)COC=1C=C(C=C(C1)C#CC1=CC=C(C=C1)S(=O)(=O)C)SC1=CC(=C(OCC(=O)O)C=C1)C | C30H30O6S2
